US07148226B2
1-(4-{2-[2-Cyclopentyl-5-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-2-fluoro-phenyl)-cyclopentanecarbonitrile
The title compound was prepared analogously to Example A(97) 2-[4-(2-{2-cyclopentyl-5-[(2-ethyl-4-methyl-1H-imidazol-5-yl)methyl]-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl}ethyl)-2-fluorophenyl]-2-methylpropanenitrile where 1-{4-[2-(2-Cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-cyclopentanecarbonitrile Example A(189) was substituted in place of 2-{4-[2-(2-cyclopentyl-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl)ethyl]-2-fluorophenyl}-2-methylpropanenitrile and 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde was substituted in place of 2-ethyl-4-methyl-1H-imidazole-5-carbaldehyde. 1H NMR (400 MHz, CDCl3) δ: 1.44–1.96 (m, 17 H), 2.14–2.22 (m, 2H), 2.56–2.62 (m, 8 H), 2.70–2.74 (m, 2 H), 3.79 (d, J=16 Hz, 1 H), 3.92 (d, J=16 Hz, 1 H), 7.12 (s, 1 H), 7.24 (s, 1 H), 7.26 (d, J=5 Hz, 1 H), 7.42–7.47 (m, 1 H), 10.9 (s, 1 H). Anal. Calcd. For C32H36FN5O3: C, 68.92; H, 6.51; N, 12.56. Found: C, 68.74; H, 6.60; N, 12.47. MS (ESI): 558 (M+H)+.

reactant | 2-[4-(2-{2-cyclopentyl-5-[(2-ethyl-4-methyl-1H-imidazol-5-yl)methyl]-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl}ethyl)-2-fluorophenyl]-2-methylpropanenitrile | C1(CCCC1)C1(OC(C(=C(C1)O)CC1=C(N=C(N1)CC)C)=O)CCC1=CC(=C(C=C1)C(C#N)(C)C)F | C29H36FN3O3
reactant | 1-{4-[2-(2-Cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-cyclopentanecarbonitrile | C1(CCCC1)C1(OC(CC(C1)=O)=O)CCC1=CC(=C(C=C1)C1(CCCC1)C#N)F | C24H28FNO3
reactant | 2-{4-[2-(2-cyclopentyl-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl)ethyl]-2-fluorophenyl}-2-methylpropanenitrile | C1(CCCC1)C1(OC(C=C(C1)O)=O)CCC1=CC(=C(C=C1)C(C#N)(C)C)F | C22H26FNO3
reactant | 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
reactant | 2-ethyl-4-methyl-1H-imidazole-5-carbaldehyde | C(C)C=1NC(=C(N1)C)C=O | C7H10N2O
product | 1-(4-{2-[2-Cyclopentyl-5-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-2-fluoro-phenyl)-cyclopentanecarbonitrile | C1(CCCC1)C1(OC(C(=C(C1)O)CC1=NN2C(N=C(C=C2C)C)=N1)=O)CCC1=CC(=C(C=C1)C1(CCCC1)C#N)F | C32H36FN5O3
